US07368454B2
4-(3,4-Dihydro-quinazolin-2-ylamino)-benzonitrile
The title compound (MS: m/e=249.0 [M+H+]) was prepared in analogy to example 1 from 2-aminobenzylamine and 4-cyanophenylisothiocyanate.

reactant | 2-aminobenzylamine | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | 4-cyanophenylisothiocyanate | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
product | 4-(3,4-Dihydro-quinazolin-2-ylamino)-benzonitrile | N1=C(NCC2=CC=CC=C12)NC1=CC=C(C#N)C=C1 | C15H12N4
